US05180735
In chloroform (0.5 ml) were dissolved 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (200 mg) and 4-bromobenzyl bromide (756 mg). To the solution was added silver bromide (11.4 mg), and the mixture was stirred for 28 hours. Insolubles were filtered off, and the solvent was distilled off. The residue was pulverized by the addition of ether. The resulting powder was dissolved in methanol (2 ml). Insolubles were filtered off, then the solvent was distilled off under reduced pressure. The residue was pulverized by the addition of ether to give 1-(4-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy- 1,5-dimethyl-4-hexenyl)-3-methoxy-1,4cyclohexanediol bromide (176 mg: yield 50%) as colorless powder.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 200 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSC | C17H30O4S
reactant | 4-bromobenzyl bromide | 756 mg | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver bromide | 11.4 mg | [Ag]Br
product | 1-(4-bromobenzyl)methylsulfoniomethyl-2-(1,2-epoxy- 1,5-dimethyl-4-hexenyl)-3-methoxy-1,4cyclohexanediol bromide | 176 mg, yield 50% | [Br-].BrC1=CC=C(CC[SH+]CC2(C(C(C(CC2)O)OC)C2(C(CC=C(C)C)O2)C)O)C=C1 | InChI=1S/C24H35BrO4S.BrH/c1-16(2)5-10-20-23(3,29-20)22-21(28-4)19(26)11-13-24(22,27)15-30-14-12-17-6-8-18(25)9-7-17;/h5-9,19-22,26-27H,10-15H2,1-4H3;1H
